US07371773B2
Production of (Z)-3-(3,4-dimethoxy-phenyl)-2-[4-(2-methoxy-ethoxymethoxy)-phenyl]-acrylonitrile (Compound 47)
The hydroxyl group of 4-hydroxybenzyl cyanide (26.63 g) was protected by use of 2-methoxyethoxymethyl chloride (24.42 g) in accordance with (production process 1), to thereby produce an MEM form (24.39 g, yield: 55%). The resultant MEM form (22.13 g) and 3,4-dimethoxybenzaldehyde (16.62 g) were subjected to condensation in accordance with process A of (production process 2), to thereby produce the target product (29.79 g, yield: 81%).

reactant | 4-hydroxybenzyl cyanide | 26.63 g | OC1=CC=C(CC#N)C=C1 | C8H7NO
reactant | 2-methoxyethoxymethyl chloride | 24.42 g | COCCOCCl | C4H9ClO2
reactant | 3,4-dimethoxybenzaldehyde | 16.62 g | COC=1C=C(C=O)C=CC1OC | C9H10O3
product | (Z)-3-(3,4-dimethoxy-phenyl)-2-[4-(2-methoxy-ethoxymethoxy)-phenyl]-acrylonitrile | 29.79 g, yield: 81% | COC=1C=C(C=CC1OC)\C=C(/C#N)\C1=CC=C(C=C1)OCOCCOC | C21H23NO5
